US06727264B1
N-{3-[1-((3S)-3-{[(3,4-DICHLOROANILINO)CARBONYL]AMINO}-3-PHENYLPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure P and Scheme AB using 1,2-dichloro-4-isocyanatobenzene and N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 567.1 (M+H)+.

reactant | 1,2-dichloro-4-isocyanatobenzene | ClC1=C(C=C(C=C1)N=C=O)Cl | C7H3Cl2NO
reactant | N-(3-{1-[(3S)-3-amino-3-phenylpropyl]-4-piperidinyl}phenyl)-2-methylpropanamide | N[C@@H](CCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C24H33N3O
product | N-{3-[1-((3S)-3-{[(3,4-DICHLOROANILINO)CARBONYL]AMINO}-3-PHENYLPROPYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | ClC=1C=C(NC(=O)N[C@@H](CCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC1Cl | C31H36Cl2N4O2
